US07705001B2
A solution of dimethyl itaconate (4.08 g, 25.8 mmol) in MeOH (3.2 mL) was added to a solution of 2,4-dimethoxybenzylamine (4.32 g, 25.8 mmol) in MeOH (9.6 mL) via cannula at room temperature. After 18 h at room temperature the reaction was concentrated in vacuo to afford crude 1-(2,4-dimethoxybenzyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester as a viscous oil.

reactant | dimethyl itaconate | 25.8 mmol, 4.08 g | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
reactant | 2,4-dimethoxybenzylamine | 25.8 mmol, 4.32 g | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | MeOH | 3.2 mL | CO | CH4O
solvent | MeOH | 9.6 mL | CO | CH4O
product | 1-(2,4-dimethoxybenzyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)CC1=C(C=C(C=C1)OC)OC | C15H19NO5
